* Cascoded NMOS common-source amplifier with PMOS current-source load.
* M1 is the CS (input) device, M2 is the cascode, M3 is the PMOS load.
M1 mid vin 0 0 NMOS W=20u L=1u
M2 vout vbias mid 0 NMOS W=20u L=1u
M3 vout vbp vdd vdd PMOS W=40u L=1u
.MODEL NMOS NMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)
.MODEL PMOS PMOS (LEVEL=1 VTO=-1 KP=1.0e-4 LAMBDA=0.02)
.END
