* Cascoded PMOS common-source amplifier with NMOS current-source load.
* M1 is the PMOS CS (input) device, M2 is the PMOS cascode, M3 is the NMOS load.
M1 mid vin vdd vdd PMOS W=40u L=1u
M2 vout vbias mid vdd PMOS W=40u L=1u
M3 vout vbn 0 0 NMOS W=20u L=1u
.MODEL NMOS NMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)
.MODEL PMOS PMOS (LEVEL=1 VTO=-1 KP=1.0e-4 LAMBDA=0.02)
.END
