* Cascode PMOS current mirror, 1 to 8. M1/M2 reference stack (1 device each); M3/M4 output stack (M=8 each).
M1 n1 n1 vdd vdd PMOS W=20u L=1u
M2 iref iref n1 vdd PMOS W=20u L=1u
M3 n2 n1 vdd vdd PMOS W=20u L=1u M=8
M4 iout iref n2 vdd PMOS W=20u L=1u M=8
.MODEL PMOS PMOS (LEVEL=1 VTO=-1 KP=1.0e-4 LAMBDA=0.02)
.END
