* PMOS common-gate amplifier with resistor load.
M1 vout vbias vin vdd PMOS W=20u L=1u
R1 vout 0 10k
.MODEL PMOS PMOS (LEVEL=1 VTO=-1 KP=1.0e-4 LAMBDA=0.02)
.END
