* NMOS common-source amplifier with resistor load and resistive feedback (shunt-shunt).
* M1 is the input device, Rd is the drain load, Rf is the feedback resistor
* from output back to gate (also providing DC self-bias).
M1 vout vin 0 0 NMOS W=10u L=1u
Rd vdd  vout 10k
Rf vout vin  100k
.MODEL NMOS NMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)
.END
