* PMOS differential amplifier with NMOS current-source loads (fully differential).
* M1/M2 input pair, M3/M4 NMOS current-source loads (no diode, no mirror), M5 tail.
M1 voutn vinp  ntail vdd PMOS W=40u L=1u
M2 voutp vinn  ntail vdd PMOS W=40u L=1u
M3 voutn vbn   0     0   NMOS W=20u L=1u
M4 voutp vbn   0     0   NMOS W=20u L=1u
M5 ntail vbias vdd   vdd PMOS W=80u L=1u
.MODEL NMOS NMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)
.MODEL PMOS PMOS (LEVEL=1 VTO=-1 KP=1.0e-4 LAMBDA=0.02)
.END
